US05412104
Step (1): Preparation of 1-Heptyl-3-Ethoxycarbonyl-4-Methoxy-2(1H)-Quinolinone.
Following the procedure set forth in Preparation A, steps (2-3), isatoic anhydride was converted to 1-heptyl-4-hydroxy-3-ethoxycarbonyl-2(1H)-quinolinone, which upon reaction with excess diazomethane in ether gave the title compound. That the expected product was obtained was confirmed by the spectral data: MS: m/e 345 (M+).

reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 1-heptyl-4-hydroxy-3-ethoxycarbonyl-2(1H)-quinolinone | C(CCCCCC)N1C(C(=C(C2=CC=CC=C12)O)C(=O)OCC)=O | C19H25NO4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | 1-Heptyl-3-Ethoxycarbonyl-4-Methoxy-2(1H)-Quinolinone | C(CCCCCC)N1C(C(=C(C2=CC=CC=C12)OC)C(=O)OCC)=O | C20H27NO4
